US09371320B2
B) (3S)-3-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholine
To a solution of (3S)-4-(4-bromophenyl)-3-methylmorpholine (630 mg), 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (630 mg) and triethylamine (1.03 mL) in 1,4-dioxane (10 mL) was added dichlorobis(triphenylphosphine)palladium(II) (86 mg), and the mixture was stirred overnight at 100° C. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (470 mg).

reactant | (3S)-4-(4-bromophenyl)-3-methylmorpholine | 630 mg | BrC1=CC=C(C=C1)N1[C@H](COCC1)C | C11H14BrNO
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 630 mg | CC1(OBOC1(C)C)C | C6H13BO2
reactant | triethylamine | 1.03 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 86 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (3S)-3-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholine | 470 mg | C[C@@H]1N(CCOC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H26BNO3
